US08563755B2
Preparation of [1S-[1α,2α,3β(1S*,2R*),5β]]-3-[7-[2-(3,4-difluorophenyl)-cyclopropylamino]-5-(propylthio)-3H-1,2,3-triazolo[4,5-d]pyrimidin-3-yl]-5-(2-hydroxyethoxy)cyclopentane-1,2-diol
The 2-({(3aR,4S,6R,6aS)-6-[7-{[(1R,2S)-2-(3,4-Difluorophenyl)cyclopropyl]amino}-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}oxy)ethanol solution from above was cooled to 15° C., a solution of concentrated aqueous hydrochloric acid (465 kg) in methanol (623 kg), also tempered to 15° C., was charged. The reaction was stirred at 15° C. until the conversion criterion was fulfilled (>97%) and the phases were allowed to separate. The methanol-water layer, containing the product, was added to sodium bicarbonate (404 kg) in water (749 kg), keeping the temperature below 22° C. When pH≧6 the aqueous layer was extracted with ethylacetate (756 kg) and the phases were separated. The water layer was again washed with ethylacetate (1080 kg) whereafter the aqueous layer was discharged. The ethylacetate layers were combined and washed once with water (490 kg). The water content in the remaining ethylacetate solution was decreased to ≦0.8% (w/w) by vacuum distillation at 50° C., followed by a clear filtration and the concentration was adjusted to 6.2 L/kg 2-[((3aR,4S,6R,6aS)-6-{[5-Amino-6-chloro-2-(propylthio)pyrimidin-4-yl]amino}-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)oxy]ethanol. The mixture was heated to 50° C. and then iso-octane was added (1152 kg) during 45 minutes. The slurry was cooled to 0° C. during 2.5 hours and then kept at this temperature for 3.5 hours. The product was isolated and washed with a cold (<5° C.) mixture of ethylacetate (722 kg) and iso-octane (828 kg). Finally, the isolated product was dried under vacuum to give the title compound as a white solid (203 kg, 90% calculated from 2-[((3aR,4S,6R,6aS)-6-{[5-Amino-6-chloro-2-(propylthio)pyrimidin-4-yl]amino}-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)oxy]ethanol).

reactant | 2-({(3aR,4S,6R,6aS)-6-[7-{[(1R,2S)-2-(3,4-Difluorophenyl)cyclopropyl]amino}-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}oxy)ethanol | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)NC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@@H]2C[C@@H]([C@@H]1[C@H]2OC(O1)(C)C)OCCO | C26H32F2N6O4S
reactant | hydrochloric acid | 465 kg | Cl | ClH
solvent | methanol | 623 kg | CO | CH4O
product | 3-[7-[2-(3,4-difluorophenyl)-cyclopropylamino]-5-(propylthio)-3H-1,2,3-triazolo[4,5-d]pyrimidin-3-yl]-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 203 kg, 90% | FC=1C=C(C=CC1F)C1C(C1)NC=1C2=C(N=C(N1)SCCC)N(N=N2)C2C(C(C(C2)OCCO)O)O | C23H28F2N6O4S
